US04033972
A solution of 3-pyridylcarbinol (2.4 g., 0.0222 mole) in triethylamine (2.24 g., 0.0222 mole) was added dropwise to a solution of N-methyl-(4-methylthiophenyl)carbamoyl chloride in 150 ml. of benzene. The reaction mixture was heated to reflux temperature for about 1 hr. then allowed to stand over night at room temperature. The reaction mixture was washed with water and the benzene layer separated, dried over magnesium sulfate and concentrated in vacuo to give an oil which solidified. The product was recrystallized from methylcyclohexane to give 2.6 g. of solid melting at 100°-102° C. This was a 40.5% yield of 3-pyridylmethyl N-methyl-N-(4-methylthiophenyl)carbamate.

reactant | 3-pyridylcarbinol | 0.0222 mole, 2.4 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | triethylamine | 0.0222 mole, 2.24 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-(4-methylthiophenyl)carbamoyl chloride | CN(C(=O)Cl)C1=CC=C(C=C1)SC | C9H10ClNOS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-methyl-N-(4-methylthiophenyl)carbamate | 40.5% yield | CN(C(OCC=1C=NC=CC1)=O)C1=CC=C(C=C1)SC | C15H16N2O2S
